US06194410B1
In an analogous manner to that described in Example 4)) from 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-3-sulphonyl)-pyrazolo[1,5-a]pyrimidine and NH3 in MeOH there was obtained 5-methyl-2-methylsulphanyl-3-(toluene-3-sulphonyl)-pyrazolo[1,5-a]pyrimidine-7-ylamine as colorless crystals, m.p.>2500.

reactant | 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-3-sulphonyl)-pyrazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C=2C=C(C=CC2)C)SC)C | C15H14ClN3O2S2
reactant | NH3 | N | H3N
solvent | MeOH | CO | CH4O
product | 5-methyl-2-methylsulphanyl-3-(toluene-3-sulphonyl)-pyrazolo[1,5-a]pyrimidine-7-ylamine | CC1=NC=2N(C(=C1)N)N=C(C2S(=O)(=O)C=2C=C(C=CC2)C)SC | C15H16N4O2S2
